resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.010455
R2 0 n2 1.01473
R3 0 n4 0.984799
R4 n1 n3 1.001913
R5 n1 n5 1.010977
R6 n2 n3 1.019146
R7 n2 n6 1.015816
R8 n3 n7 1.013806
R9 n4 n5 1.010244
R10 n4 n6 0.999397
R11 n5 n7 1.003185
C12 n6 n7 6.52e-06
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i]
.endc
.end
